US04250085
Ethyl bromoacetate in diethyl ether was added dropwise to a solution cooled to +5° C. of cyclopropylamine in diethyl ether. A white solid formed. The mixture was stirred for 3 hours while maintaining the cooling. The precipitate was filtered off and extracted with ether and the filtrate was evaporated. The residue was triturated with benzene/cyclohexane and the solid was filtered off. The filtrate was evaporated and the residue was distilled and fractionated to give ethyl cyclopropylaminoacetate of boiling point 32°-33° C./0.7 mmHg: nD19 =1.4384.

reactant | Ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl cyclopropylaminoacetate | C1(CC1)NCC(=O)OCC | C7H13NO2
